datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])[H].[O-:21]C>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)[H])[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"CC[O:10][H].[H][O+:21]=[C:20]([O][H])[S]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O][H])[S]C 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[OH:10]C([H])C([H])C(C)C(O)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(O)C(C)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CC)C1=CC=CC=C1)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.CC[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C)C 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(C)C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])C(C)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C(C)/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O+:10]([Na])C(C)C(C)=C1C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"[O:10]([Na])C([H])/C(O)=C([C:20](C)=[O:21])/[H]>>[O-:21][C:20]1(C)[O+:10]([Na])C([H])C(O)=C1[H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[Na][O+:21]([C:20]([O-:10])(O[H])O[H])[H]>>[Na][O:21][H].[C:20](=[O:10])(O[H])O[H] 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C([O-:21])[H])C)CCCCCC>>[H]N([C:20]1(OC(C([O:21]1)[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[O-:10]C([H])/C(C)=C([C:20](C)=[O:21])/C>>[O-:21][C:20]1(C)[O:10]C([H])C(C)=C1C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O][H].[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)[H])CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H]>>CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)C1=CC=CC=C1>>[H]N([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][S:10]C(C)C([H])[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CCN([C:20]([O-:10])(O[H])[O:21]CCCCCC)CC>>CCN([C:20](=[O:10])O[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
